US07008940B1
1,6,7,8-Tetrahydro-2-(iodomethyl)-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indole-6-carbaldehyde
To a solution of 2,3-dihydro-5-hydroxy-2,2,6,7-tetramethyl-4-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde (1.60 g, 5.85 mmol) in dichloromethane (15 mL) and methanol (5 mL) were added calcium carbonate (0.76 g, 7.6 mmol) and benzyltrimethylammonium dichloroiodate (2.24 g, 6.44 mmol), and the mixture was stirred at room temperature for 15 minutes. The reaction mixture was filtered and concentrated under reduced pressure. To the residue was added a 5% aqueous sodium hydrogen sulfite solution (15 mL), and the mixture was extracted with ethyl acetate two times. The combined organic layers were washed with water and saturated brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to basic silica gel column chromatography (hexane-ethyl acetate 10:1) to obtain 1.93 g of the title compound.

reactant | 2,3-dihydro-5-hydroxy-2,2,6,7-tetramethyl-4-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde | 5.85 mmol, 1.60 g | OC=1C(=C2CC(N(C2=C(C1C)C)C=O)(C)C)CC(=C)C | C17H23NO2
reactant | calcium carbonate | 7.6 mmol, 0.76 g | C([O-])([O-])=O.[Ca+2]
reactant | benzyltrimethylammonium dichloroiodate | 6.44 mmol, 2.24 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 1,6,7,8-Tetrahydro-2-(iodomethyl)-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indole-6-carbaldehyde | 1.93 g, Yield 83% | ICC1(CC2=C3CC(N(C3=C(C(=C2O1)C)C)C=O)(C)C)C | C17H22INO2
